US08563539B2
An 8 mL round-bottomed vial was charged with N-methyl-2-phenylethanamine (43 mg, 0.318 mmol, 1 equiv.) and DMSO (1 mL, 0.3 M), DiPEA (105 μL, 0.636 mmol, 2 equiv.), (Z)-5-((6-bromopyridin-2-yl)methylene)thiazolidine-2,4-dione (91 mg, 0.318 mmol, 1 equiv.), and the vial was purged with argon. The mixture was shaken for 48 h at 110° C. The reaction mixture was then partitioned between CH2Cl2 (10 mL) and sat. NaCl (20 mL). The aqueous layer was back extracted with CH2Cl2 (2×15 mL) and the combined organic layer was dried over xxx and concentrated under reduced pressure to provide an orange residue. The orange residue was triturated with ether (3×15 mL) to provide (Z)-5-((6-(methyl(phenethyl)amino)pyridin-2-yl)methylene)thiazolidine-2,4-dione as an orange film (2.6 mg, 175 mg theoretical, 5%). LC-MS m/z: 340 (M+1).

reactant | N-methyl-2-phenylethanamine | 0.318 mmol, 43 mg, 1 equiv. | CNCCC1=CC=CC=C1 | C9H13N
reactant | DiPEA | 0.636 mmol, 105 μL, 2 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | (Z)-5-((6-bromopyridin-2-yl)methylene)thiazolidine-2,4-dione | 0.318 mmol, 91 mg, 1 equiv. | BrC1=CC=CC(=N1)\C=C/1\C(NC(S1)=O)=O | C9H5BrN2O2S
solvent | DMSO | 0.3 M, 1 mL | CS(=O)C | C2H6OS
product | (Z)-5-((6-(methyl(phenethyl)amino)pyridin-2-yl)methylene)thiazolidine-2,4-dione | CN(C1=CC=CC(=N1)\C=C/1\C(NC(S1)=O)=O)CCC1=CC=CC=C1 | C18H17N3O2S
